US04720500
The procedure is analogous to that described in Example 1, but starting with 4-methoxybenzoic acid (6.1 g), N,N'-carbonyldiimidazole (6.5 g) and 2-amino-7-anilino-1,8-naphthyridine (7 g). The product obtained by precipitation in water (12 g) is dissolved in boiling ethanol (140 cc). After cooling for 1 hour at 4° C., the crystallized solid is separated by filtration, washed with ethanol (10 cc), and dried at 45° C. under reduced pressure (0.07 kPa). N-(7-Anilino-1,8-naphthyridin-2-yl)-4-methoxybenzamide (4.5 g), m.p. 245° C., is obtained.

reactant | 4-methoxybenzoic acid | 6.1 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-amino-7-anilino-1,8-naphthyridine | 7 g | NC1=NC2=NC(=CC=C2C=C1)NC1=CC=CC=C1 | C14H12N4
reactant | ethanol | 140 cc | C(C)O | C2H6O
solvent | water | 12 g | O | H2O
product | N-(7-Anilino-1,8-naphthyridin-2-yl)-4-methoxybenzamide | 4.5 g | N(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O | C22H18N4O2
